US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-5-(4-pyridinyl)-benzamide
To a stirring solution of N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide (0.52 g, 0.98 mmol), dichlorobis(triphenylphosphine)palladium(II) (34 mg, 0.05. mmol), and lithium chloride (0.15 g, 3.56 mmol) in 1,4-dioxane (5 mL) was added 4-(tributylstannyl)pyridine (1.16 g, 3.14 mmol) and dioxane (5 mL). The reaction mixture was heated to reflux, stirred overnight, and then filtered through diatomaceous earth. The filtrate was partitioned between 3:1 chloroform:isopropanol and saturated aqueous sodium bicarbonate, and the layers separated. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by chromatography over silica gel, eluting with a step gradient of 10-25% 2 M ammonia/methanol solution in dichloromethane. The chromatography product was recrystallized from methanol and ethyl acetate to give 47 mg (10%) of a white solid.

reactant | N-(5-chloropyridin-2-yl)-5-iodo-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 0.98 mmol, 0.52 g | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)I)NC(=O)C1CCN(CC1)C(C)C)=O | C21H24ClIN4O2
reactant | lithium chloride | 3.56 mmol, 0.15 g | [Cl-].[Li+]
reactant | 4-(tributylstannyl)pyridine | 3.14 mmol, 1.16 g | C(CCC)[Sn](C1=CC=NC=C1)(CCCC)CCCC
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-5-(4-pyridinyl)-benzamide | 47 mg, 10% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C1=CC=NC=C1)NC(=O)C1CCN(CC1)C(C)C)=O | C26H28ClN5O2
